### PR TITLE
[Merged by Bors] - refactor(LSeries): extract `hf_modif_top`

### PR DESCRIPTION
**Pull request by pepamontero**
This PR refactors `toStrongFEPair` by extracting the proof of `hf_top` into a standalone lemma `hf_modif_top`.

This follows the existing pattern of `hf_modif_int` and `hf_modif_FE`, and makes the definition cleaner, avoids duplication and makes the lemma reusable.

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 1]
```diff
@@ -318,17 +325,8 @@ def toStrongFEPair : StrongFEPair E where
...
-    filter_upwards [eventually_gt_atTop 1] with x hx
-    rw [f_modif, Pi.add_apply, indicator_of_mem (mem_Ioi.mpr hx),
-      indicator_of_notMem (notMem_Ioo_of_ge hx.le), add_zero, sub_zero]
-  hg_top r := by
-    refine (P.hg_top r).congr' ?_ (by rfl)
-    filter_upwards [eventually_gt_atTop 1] with x hx
-    rw [f_modif, Pi.add_apply, indicator_of_mem (mem_Ioi.mpr hx),
-      indicator_of_notMem (notMem_Ioo_of_ge hx.le), add_zero, sub_zero]
-    rfl
+  hf_top   := P.hf_modif_top
```
Comment (grunweg) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:327]: I'm not a fan of the manual alignment here, but that existed prior to your PR (i.e., I'm not requesting you to change it --- if you like, I'd also merge a follow-up PR removing it). Your PR only shows why this is a bad idea: the alignment can become out of date; to maintain it you would have had to change all the other lines also.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 2]
```diff
@@ -301,6 +301,13 @@ lemma hf_modif_FE (x : ℝ) (hx : 0 < x) :
     simp_rw [rpow_neg hx.le]
     match_scalars <;> field [(rpow_pos_of_pos hx P.k).ne', P.hε]
 
+lemma hf_modif_top (r : ℝ) :
+    (fun x ↦ P.f_modif x - 0) =O[atTop] fun x ↦ x ^ r := by
+  refine (P.hf_top r).congr' ?_ (by rfl)
+  filter_upwards [eventually_gt_atTop 1] with x hx
+  rw [f_modif, Pi.add_apply, indicator_of_mem (mem_Ioi.mpr hx),
+    indicator_of_notMem (notMem_Ioo_of_ge hx.le), add_zero, sub_zero]
```
Comment (grunweg) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean]: Many lemmas in this `rw` are simp lemmas, which is an indication that `simp` may be able to help you out here, and indeed it can: the following also works, is shorten (and still fast):
```suggestion
  simp [f_modif, mem_Ioi.mpr hx, notMem_Ioo_of_ge hx.le]
```

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I have one concrete suggestion, and one general comment for your background.
bors d+

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean (hunk 1 above)
Comment (pepamontero) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:327]: Thank you for the suggestions! Yes, I can open a follow-up PR with this.

Comment (pepamontero) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:327]: I’ve opened a follow-up PR removing the manual alignment: #37798
